US07863310B2
Bubble nitrogen through a suspension of 2-(tert-butyl)-4-(4-fluorophenyl)-5-bromooxazole (2.0 g, 9.1 mmol), 1-isobutyl-2-amino-6-bromobenzimidazole (4.98 g, 18.6 mmol), cesium carbonate (6.06 g, 18.6 mmol), palladium(II) acetate (0.201 g) and triphenylphosphine (1.2 g, 4.5 mmol) in 15 mL dimethylformamide for 3 minutes. Stir the reaction mixture at 100° C. for 18 hours. Cool to room temperature. Partition between ethyl acetate and saturated aqueous sodium chloride. Wash the organic layer with saturated aqueous sodium chloride, dry over sodium sulfate, and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 50:1 dichloromethane:methanol containing 2M ammonium hydroxide to provide 1-isobutyl-2-amino-6-(2-(tert-butyl)-4-(4-fluorophenyl)oxazol-5-yl)-1H-benzimidazole (1 g, 27%). This material is treated with methanesulfonic acid as previously described to provide the title compound.

reactant | 2-(tert-butyl)-4-(4-fluorophenyl)-5-bromooxazole | 9.1 mmol, 2.0 g | C(C)(C)(C)C=1OC(=C(N1)C1=CC=C(C=C1)F)Br | C13H13BrFNO
reactant | 1-isobutyl-2-amino-6-bromobenzimidazole | 18.6 mmol, 4.98 g | C(C(C)C)N1C(=NC2=C1C=C(C=C2)Br)N | C11H14BrN3
reactant | cesium carbonate | 18.6 mmol, 6.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triphenylphosphine | 4.5 mmol, 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.201 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-isobutyl-2-amino-6-(2-(tert-butyl)-4-(4-fluorophenyl)oxazol-5-yl)-1H-benzimidazole | 1 g, 27% | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C2=C(N=C(O2)C(C)(C)C)C2=CC=C(C=C2)F)N | C24H27FN4O
